US06271411B1
Preparation of 2-(4-amino-phenyl)-indene
20 ml of triethylamine, 2.2 g (20 mmol) of indene, 4.38 g (20 mmol) of para-amino-iodo-benzene and 0.134 g (0.6 mmol) of Pd(OAc)2 were stirred under reflux for 10 h. After that all triethylamine was removed under reduced pressure. The residue was treated with 80 ml of 15% HCl. Forming precipitate was separated and washed with dichloromethane. The resulting substance was treated with the mixture 50 ml of dichloromethane and 50 ml of 5% KOH in water. Organic layer was separated, washed twice with water, filtered and dried over Na2SO4. Dichloromethane was removed and the residue was recrystallized from 20 ml of EtOH. The yield of product was 21%.

reactant | indene | 20 mmol, 2.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | para-amino-iodo-benzene | 20 mmol, 4.38 g | NC1=CC=C(C=C1)I | C6H6IN
catalyst | Pd(OAc)2 | 0.6 mmol, 0.134 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-amino-phenyl)-indene | NC1=CC=C(C=C1)C=1CC2=CC=CC=C2C1 | C15H13N
